US08039493B2
In analogy to example 1, step 1, 2-bromo-5-aminomethyl-thiazole hydrochloride was reacted with 2-chlorobenzenesulfonylchloride and N,N-diisopropyl ethyl amine in dichloromethane to give N-(2-bromo-thiazol-5-ylmethyl)-2-chloro-benzenesulfonamide as an off-white solid. MS: 367.0 ([M+H]+)

reactant | 2-bromo-5-aminomethyl-thiazole hydrochloride | Cl.BrC=1SC(=CN1)CN
reactant | 2-chlorobenzenesulfonylchloride | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | N,N-diisopropyl ethyl amine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-bromo-thiazol-5-ylmethyl)-2-chloro-benzenesulfonamide | BrC=1SC(=CN1)CNS(=O)(=O)C1=C(C=CC=C1)Cl | C10H8BrClN2O2S2
